US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 800 mg (3.47 mmol) of 1-[3-(amino)propan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 0.73 ml (5.24 mmol) of triethylamine in 20 ml of methylene chloride was added, while stirring under ice-cooling, 726 mg (4.17 mmol) of methanesulfonic acid anhydride. The mixture was stirred for 0.5 hour at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from methylene chloride-ethanol-ether to give 634 mg of the desired compound (59.2%, pale yellow crystals).

reactant | 1-[3-(amino)propan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 3.47 mmol, 800 mg | NCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C12H14N4O
reactant | triethylamine | 5.24 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 4.17 mmol, 726 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 634 mg, 59.2% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCNS(=O)(=O)C)=O | C13H16N4O3S
